* source LAB 9
V_V1         N14428 0  
+PULSE 0 10 0 0 0 1ms 2ms
R_R1         N14428 N14435  10k TC=0,0 
L_L1         N14435 N14446  10mh  
C_C1         0 N14446  .01u  TC=0,0 
