* source LAB9CIRCUIT2
V_V1         N14432 0  
+PULSE 0 10 0 0 0 1ms 2ms
C_C1         0 N14439  .01u  TC=0,0 
R_R1         N14432 N14439  10k TC=0,0 
L_L1         0 N14439  10mh  
